US09144239B2
Step 1: Preparation of tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-9-methyl-2-oxo-7,8-diphenoxy-1,5-dioxonan-3-yl]carbamate (compound 147)
To a solution of tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8R,9S)-7-hydroxy-9-methyl-2-oxo-8-phenoxy-1,5-dioxonan-3-yl]carbamate (102 mg, 0.212 mmol) in toluene (1 mL) was added fluorotetraphenylbismuth (227 mg, 0.424 mmol, prepared according to the procedure disclosed in J. Am. Chem. Soc. 2003, 125, 10494-10495), diacetoxycopper (7.69 mg, 0.042 mmol) and N-cyclohexyl-N-methylcyclohexanamine (83 mg, 0.424 mmol). The reaction solution was heated to 40° C. for 6 h and then stirred at room temperature overnight. The reaction mixture was purified by flash chromatography (SiO2, hexanes/EtOAc gradient) to yield the title compound as a white solid (95 mg, 80%): 1H NMR (400 MHz, CDCl3) δ 7.31-7.20 (m, 2H), 7.20-7.12 (m, 2H), 7.02-6.81 (m, 4H), 6.73 (dt, J=7.8, 1.1 Hz, 2H), 5.34 (dd, J=9.0, 3.6 Hz, 1H), 5.16 (dq, J=9.4, 6.3 Hz, 1H), 4.58-4.45 (m, 1H), 4.41 (ddd, J=8.7, 7.3, 1.3 Hz, 1H), 4.32 (dd, J=12.3, 3.6 Hz, 1H), 4.08 (dd, J=11.1, 1.3 Hz, 1H), 3.98 (dd, J=12.4, 8.9 Hz, 1H), 3.77 (dd, J=11.1, 7.3 Hz, 1H), 1.54 (s, 18H), 1.46 (d, J=6.3 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 168.79, 159.50, 157.39, 152.59, 129.37, 129.24, 121.47, 121.23, 116.49, 115.72, 83.25, 82.80, 80.62, 75.45, 73.18, 72.36, 57.95, 28.00, 18.97; ESIMS m/z 559.0 ([M+H]+).

reactant | tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8R,9S)-7-hydroxy-9-methyl-2-oxo-8-phenoxy-1,5-dioxonan-3-yl]carbamate | 0.212 mmol, 102 mg | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)O)OC1=CC=CC=C1)C)=O | C24H35NO9
reactant | fluorotetraphenylbismuth | F[Bi](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | N-cyclohexyl-N-methylcyclohexanamine | 0.424 mmol, 83 mg | C1(CCCCC1)N(C1CCCCC1)C | C13H25N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | diacetoxycopper | 0.042 mmol, 7.69 mg | C(C)(=O)O[Cu]OC(C)=O
product | tert-butyl N-tert-butoxycarbonyl-N-[(3S,7S,8S,9S)-9-methyl-2-oxo-7,8-diphenoxy-1,5-dioxonan-3-yl]carbamate | 95 mg, 80% | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OC1=CC=CC=C1)OC1=CC=CC=C1)C)=O | C30H39NO9
